US07888344B2
2-Amino-3-(1H-indol-3-yl)propan-1-ol
The title compound was prepared from tryptophan according to Method D and was isolated as a solid in 92% yield. δH (MeOD-d3) 7.46 (1H, d, J 7.9 Hz), 7.21 (1H, d, J 8.0 Hz), 6.96 (3H, m), 3.79 (1H, dd, J 11.3 and 3.6 Hz), 3.54 (1H, dd, J 11.2 and 6.2 Hz), 3.05 (1H, m), 2.80 (1H, m), 2.61 (1H, m). Note: exchangeable protons not evident in MeOD.

reactant | tryptophan | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
solvent | MeOD | CO[2H] | CH4O
product | 2-Amino-3-(1H-indol-3-yl)propan-1-ol | 92% yield | NC(CO)CC1=CNC2=CC=CC=C12 | C11H14N2O
